US04720505
Step A: Preparation of 3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-1-cyclohexene
To a mixture of 2,4-dihydroxy-3-propylacetophenone, 40 g, diethyl diazodicarboxylate, 51 g, and cyclohexen-2-ol, 20 g, in tetrahydrofuran, 1.5 L, cooled at 0° C., was added slowly a solution of triphenylphosphine, 80 g, in THF, 0.5 L. The mixture was stirred at room temperature for 18 hours. The volatiles were removed in vacuo. The residue was dissolved in a minimum amount of CH2Cl2 and placed on a silica gel column. Elution with 1% EtOAc/hexane yielded 20 g of the title compound as an oil. NMR (ppm) (CDCl3): 12.75 (1H, s, phenolic OH), 7.60 (1H, d, J-9 Hz, H ortho to acetyl), 6.53 (1H, d, J-9 Hz, H meta to acetyl), 5.90 (2H, m, olefinic proton), 4.87 (1H, m, CHOAc), 2.60 (3H, s, CH3).

reactant | 2,4-dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | diethyl diazodicarboxylate | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | cyclohexen-2-ol | C1=C(CCCC1)O | C6H10O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-1-cyclohexene | 20 g | C(C)(=O)C1=C(C(=C(OC2C=CCCC2)C=C1)CCC)O | C17H22O3
